US04792551
Para-toluenesulphonyl chloride (20.5 g) was added to a mixture of 2-chloroethanol (8.6 g) and pyridine (50 ml). After stirring for one hour at 0° C., the mixture was added to ice and the organic phase was extracted with ether. The extract was washed with dilute hydrochloric acid, dried with magnesium sulphate, and evaporated, to yield 2-chloroethyl-p-toluenesulphonate.

reactant | Para-toluenesulphonyl chloride | 20.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-chloroethanol | 8.6 g | ClCCO | C2H5ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloroethyl-p-toluenesulphonate | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
